### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/AlgebraMap): add Polynomial.mapAlgHom lemmas

### PR DESCRIPTION
**Pull request by mariainesdff**
Co-authored by: @AntoineChambert-Loir

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 1]
```diff
@@ -728,4 +750,34 @@ lemma X_mem_nonzeroDivisors : X ∈ R[X]⁰ :=
...
 
+section BaseChange
+
+variable [CommSemiring R] [CommSemiring S] [Algebra R S] {S' : Type*} [CommSemiring S']
+  [Algebra R S']
+
+/-- `baseChange φ` aplies `φ` on the coefficients of a polynomial in `S[X]`. -/
+noncomputable def baseChange (φ : S →ₐ[R] S') : S[X] →ₐ[R] S'[X] where
+  toRingHom := eval₂RingHom (C.comp φ) X
+  commutes' := fun r ↦ by simp
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean]: Is this `Polynomial.mapAlgHom`?

Comment (mariainesdff) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean]: Ah, we had missed that. I will remove this definition.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 2]
```diff
@@ -177,6 +186,19 @@ theorem mapAlgHom_eq_eval₂AlgHom'_CAlgHom (f : A →ₐ[R] B) : mapAlgHom f =
     (CAlgHom.comp f) X (fun a => (commute_X (C (f a))).symm) := by
   rfl
 
+lemma coeff_mapAlgHom_apply (f : A →ₐ[R] B) (p : A[X]) (n : ℕ) :
+    coeff (mapAlgHom f p) n = f (coeff p n) := by
+  simp
+
+lemma lcoeff_comp_mapAlgHom_eq (f : A →ₐ[R] B) (n : ℕ) :
+    LinearMap.comp (AlgHom.toLinearMap f) ((lcoeff A n).restrictScalars R) =
+      LinearMap.comp ((lcoeff B n).restrictScalars R) (mapAlgHom f).toLinearMap := by
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean]:
```suggestion
    f.toLinearMap ∘ₗ (lcoeff A n).restrictScalars R =
      (lcoeff B n).restrictScalars R ∘ₗ (mapAlgHom f).toLinearMap := by
```
(one can also omit the `restrictScalars R` because coercion inserts it for you but I am less sure if we want to rely on this)
And the equality should probably flipped not least because of the lemma name.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 3]
```diff
@@ -532,6 +554,19 @@ theorem aevalTower_ofId : aevalTower (Algebra.ofId S A') = aeval := by
 
 end aevalTower
 
+open LinearMap TensorProduct in
+lemma X_pow_mul_rTensor_monomial [CommSemiring S] [Algebra R S] {N : Type*}
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean]:
```suggestion
lemma X_pow_smul_rTensor_monomial [CommSemiring S] [Algebra R S] {N : Type*}
```
Also I think this lemma looks a bit weird and it could benefit from a docstring describing what it is doing.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 4]
```diff
@@ -177,6 +186,19 @@ theorem mapAlgHom_eq_eval₂AlgHom'_CAlgHom (f : A →ₐ[R] B) : mapAlgHom f =
...
+    coeff (mapAlgHom f p) n = f (coeff p n) := by
+  simp
+
+lemma lcoeff_comp_mapAlgHom_eq (f : A →ₐ[R] B) (n : ℕ) :
+    LinearMap.comp (AlgHom.toLinearMap f) ((lcoeff A n).restrictScalars R) =
+      LinearMap.comp ((lcoeff B n).restrictScalars R) (mapAlgHom f).toLinearMap := by
+  ext f; simp
+
+lemma mapAlgHom_monomial (f : A →ₐ[R] B) (n : ℕ) (a : A) :
+    (mapAlgHom f) ((Polynomial.monomial n) a) = (Polynomial.monomial n) (f a) := by
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean]:
```suggestion
    mapAlgHom f (monomial n a) = monomial n (f a) := by
```

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 5]
```diff
@@ -17,6 +17,15 @@ import Mathlib.Algebra.Polynomial.Monomial
 
 We show that `A[X]` is an R-algebra when `A` is an R-algebra.
 We promote `eval₂` to an algebra hom in `aeval`.
+
+## Main definitions
+
+- `Polynomial.aeval`: given a valuation `x` of the variable in an `R`-algebra `A`, `aeval R A x` is
+the unique `R`-algebra homomorphism from `R[X]` to `A` sending `X` to `x`.
+
+- `Polynomial.mapAlgHom` : given `φ : S →ₐ[R] S'`, `baseChange φ` aplies `φ` on the
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean]: I'm confused by the mention of `baseChange`. Did you mean
```suggestion
- `Polynomial.mapAlgHom` : given `φ : S →ₐ[R] S'`, `mapAlgHom φ` aplies `φ` on the
```

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean (hunk 5 above)
Comment (mariainesdff) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean]: Yes, thanks for catching this, `baseChange` was used in a previous commit.
